US04734416
2.0 Grams of 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril and 1.5 g of benzoyl chloride are mixed with 20 ml of pyridine and stirred at 50°-60° C. for 3 hours. The reaction mixture is concentrated under reduced pressure to dryness. The residue is converted into a hydrochloric acid-salt thereof, then recrystallized from methanol to obtain 5-[3-(4-benzoylpiperazinyl)propoxy]-3,4-dihydrocarbostyril hydrochloride in the form of colorless plate-like crystals with a melting point of 240° C. (decomp.).

reactant | 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril | N1(CCNCC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C16H23N3O2
reactant | benzoyl chloride | 1.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 5-[3-(4-benzoylpiperazinyl)propoxy]-3,4-dihydrocarbostyril hydrochloride | Cl.C(C1=CC=CC=C1)(=O)N1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | InChI=1S/C23H27N3O3.ClH/c27-22-11-10-19-20(24-22)8-4-9-21(19)29-17-5-12-25-13-15-26(16-14-25)23(28)18-6-2-1-3-7-18;/h1-4,6-9H,5,10-17H2,(H,24,27);1H
